US07153878B2
4-Isopropyl-2-(4-trifluoromethyl-phenyl)-4H-oxazol-5-one (1.0 g, 3.69 mmol) and (carbethoxyethylidine)triphenyl-phosphorane (2.67 g, 7.37 mmol) are stirred in toluene (20 mL) at reflux 3 hr. The mixture is concentrated in vacuo and the residue is purified over silica eluting with 9:1 hexanes:ethyl acetate affording 2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-propionic acid ethyl ester as a pale orange oil, 1.11 g, 85%. MS (M++1) 356.

reactant | 4-Isopropyl-2-(4-trifluoromethyl-phenyl)-4H-oxazol-5-one | 3.69 mmol, 1.0 g | C(C)(C)C1N=C(OC1=O)C1=CC=C(C=C1)C(F)(F)F | C13H12F3NO2
reactant | (carbethoxyethylidine)triphenyl-phosphorane | 7.37 mmol, 2.67 g | CCOC(=O)C(=P(C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)C | C23H23O2P
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-propionic acid ethyl ester | C(C)OC(C(C)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C(C)C)=O | C18H20F3NO3
